US08304419B2
To a mixture of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile (197 mg, 0.573 mmol), 4-chloro-2-ethyl-1H-imidazole-5-carboxylic acid (100 mg, 0.573 mmol) and HATU (218 mg, 0.573 mmol) in DMF (4.0 ml) was added diisopropylethyl amine (0.200 ml, 1.146 mmol) and the mixture was stirred for 1 hr at rt. The reaction mixture was diluted with ethyl acetate and washed with water. The solvent was removed and the crude material was purified via silica gel chromatography to give 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(trifluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-2-ethyl-1H-imidazole-5-carboxamide (135 mg, 0.269 mmol, 47% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.11 (s, 2H), 7.80 (s, 1H), 7.74 (s, 1H), 7.50 (dd, 1H), 7.36 (t, 1H), 4.52 (d, 2H), 2.58 (q, 2H), 1.16 (t, 3H). LC-MS (ES+) m/z 501.10, [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile | 0.573 mmol, 197 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C(F)(F)F)F | C15H9ClF4N2O
reactant | 4-chloro-2-ethyl-1H-imidazole-5-carboxylic acid | 0.573 mmol, 100 mg | ClC=1N=C(NC1C(=O)O)CC | C6H7ClN2O2
reactant | HATU | 0.573 mmol, 218 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 1.146 mmol, 0.200 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(trifluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-2-ethyl-1H-imidazole-5-carboxamide | 0.269 mmol, 135 mg, 47% yield | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C(F)(F)F)C#N)F)CC | C21H14Cl2F4N4O2
